US05308857
A solution of 2-(diaminomethyleneamino)-4-[5-(2-methyl-3-isothioureido)methylfuran-2-yl]thiazole hydriodide (1.0 g), cyanamide (120 mg) and triethylamine (1.2 g) in N,N-dimethylformamide (20 ml) was heated at 100° C. for 3 hours. The solvent was removed under reduced pressure. The residue was chromatographed on a silica gel column eluting with a mixture of chloroform and methanol (20:1, V/V). Recrystallization from 20% methanol afforded 2-(diaminomethyleneamino)-4-[5-(2-cyanoguanidino)methylfuran-2-yl]thiazole (170 mg).

reactant | 2-(diaminomethyleneamino)-4-[5-(2-methyl-3-isothioureido)methylfuran-2-yl]thiazole hydriodide | 1.0 g | I.NC(N)=NC=1SC=C(N1)C=1OC(=CC1)CN=C(SC)N
reactant | cyanamide | 120 mg | N#CN | CH2N2
reactant | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-(diaminomethyleneamino)-4-[5-(2-cyanoguanidino)methylfuran-2-yl]thiazole | 170 mg | NC(N)=NC=1SC=C(N1)C=1OC(=CC1)CNC(=NC#N)N | C11H12N8OS
